Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1]/[C:2](=[C:3]1/[O:4][O:5][C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[C:6]([O:5][O:4])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.48196428119
[C:4]([H:5])[H:6].[H:1][C:2]#[C:3][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-4.66364597063
[C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-0.644581494601
[C:1]/[C:2]([C:3](=[O:4])[H:5])=[C:6](/[H:7])[O:8][H:9]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])[O:8][H:9],3.37700124008
[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],-2.30035371548
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][H:12].[H:8],4.98448996149
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],2.05718095713
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:11][C:12]([H:13])([H:14])[H:15],4.5163891623
[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.78447066998
[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.62497476656
[O:1]=[C:2]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4]>>[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.21266880037
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],1.43838942438
[C:4][O:5][H:6].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][O:5][H:6],-5.03267897
[H:11].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.59392942817
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.35397546617
[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.01852858515
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12],-4.93623811854
[H:9].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.0034088176
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11],-1.7256347373599996
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]1=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.36519255623
[C:1]=[C:2]([O:3][C:4]#[C:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.570906057669999
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])[H:10],7.3187517474
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2][O:3][C:4][O:6][H:7].[H:5],3.9596327856
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-4.98607545646
[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.05871116926
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-4.07478099703
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5]#[C:6]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.60693585918
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.06436319104
[H:6].[O:1][C:2]#[C:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-3.71443319795
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.81972094481
